US09056859B2
A mixture of 5-bromo-2-hydroxybenzonitrile (1 g, 5 mmol), MeI (0.85 g, 6 mmol) and K2CO3 (2 g, 15 mmol) in 25 mL of dry CH3CN were heated to refluxed over night. The solvent was evaporated off and the residue was added water. Extracted the mixture with DCM and the organic layer was washed with saturated chloride, dried over Na2SO4. The residue was purified with fast column chromatograph to afford compound 5-bromo-2-methoxybenzonitrile.

reactant | 5-bromo-2-hydroxybenzonitrile | 5 mmol, 1 g | BrC=1C=CC(=C(C#N)C1)O | C7H4BrNO
reactant | MeI | 6 mmol, 0.85 g | CI | CH3I
reactant | K2CO3 | 15 mmol, 2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | 5-bromo-2-methoxybenzonitrile | BrC=1C=CC(=C(C#N)C1)OC | C8H6BrNO
